US07829560B2
4-Bromo-1-naphthylamine (5.0 g, 22.5 mmol) and ditertbutyldicarbonate (7.4 g, 33.9 mmol) in tetrahydrofuran (75 ml) and 1M sodium hydroxide (75 ml) are stirred at room temperature for 4 days. The mixture is then poured into ethyl acetate (250 ml) and washed with water (300 ml). The ethyl acetate layer is dried over anhydrous sodium sulfate and evaporated to dryness. The residue is purified by column chromatography on silica gel eluted with 10% ethyl acetate in hexanes then recrystallized from ethyl acetate and hexanes to yield (4-bromo-naphthalen-1-yl)-carbamic acid tert-butyl ester (3.669 g).

reactant | 4-Bromo-1-naphthylamine | 22.5 mmol, 5.0 g | BrC1=CC=C(C2=CC=CC=C12)N | C10H8BrN
reactant | ditertbutyldicarbonate | 33.9 mmol, 7.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1M, 75 ml | [OH-].[Na+]
product | (4-bromo-naphthalen-1-yl)-carbamic acid tert-butyl ester | 3.669 g | C(C)(C)(C)OC(NC1=CC=C(C2=CC=CC=C12)Br)=O | C15H16BrNO2
